US05037824
A mixture of 4-{3-cyanophenyl)-2-methyl-3-(2- morpholinoethylcarbamoyl)-6-phenylpyridine (1.5 g) and Raney's Nickel (1.5 g) in 75% formic acid (40 ml) was refluxed for one hour under stirring. The reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was dissolved in a mixture of ethyl acetate and water and the resultant solution was adjusted to pH 8.0 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to a column chromatography on silica gel and eluted with a mixture of ethyl acetate and diisopropyl ether (8:2 V/V). The eluted solution was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 4-(3-formylphenyl)-2-methyl-3-(2-morpholinoethylcarbamoyl)-6-phenylpyridine (0.8 g).

reactant | 4-{3-cyanophenyl)-2-methyl-3-(2- morpholinoethylcarbamoyl)-6-phenylpyridine | 1.5 g | C(#N)C=1C=C(C=CC1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)C(NCCN1CCOCC1)=O | C26H26N4O2
reactant | formic acid | 40 ml | C(=O)O | CH2O2
catalyst | Raney's Nickel | 1.5 g | [Ni] | Ni
product | 4-(3-formylphenyl)-2-methyl-3-(2-morpholinoethylcarbamoyl)-6-phenylpyridine | 0.8 g | C(=O)C=1C=C(C=CC1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)C(NCCN1CCOCC1)=O | C26H27N3O3
